US06395718B1
Preparation of 2-[(benzylsulfinyl)methyl]pentanedioic acid
To a cooled solution (5° C.) of dibenzyl 2-[(benzylsulfinyl)methyl]pentanedioate (15.2 g, 33.9 mmol) in tetrahydrofuran (750 mL) was added 0.1 N NaOH (745 mL, 74.5 mmol NaOH) with stirring. The cloudy reaction mixture was allowed to warm to room temperature. After 16 hours, the reaction mixture had become homogenous. The solution was concentrated under reduced pressure to remove the tetrahydrofuran. The remaining aqueous solution was washed with ethyl acetate, then made acidic (pH 1) with concentrated HCl. The mixture was extracted twice with ethyl acetate. The ethyl acetate was removed under reduced pressure and the resulting waxy solid was purified by column chromatography to yield 6.9 g (76%) of white solid.

reactant | dibenzyl 2-[(benzylsulfinyl)methyl]pentanedioate | 33.9 mmol, 15.2 g | C(C1=CC=CC=C1)S(=O)CC(C(=O)OCC1=CC=CC=C1)CCC(=O)OCC1=CC=CC=C1 | C27H28O5S
reactant | NaOH | 74.5 mmol, 0.1 N, 745 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
product | 2-[(benzylsulfinyl)methyl]pentanedioic acid | 6.9 g, 76% | C(C1=CC=CC=C1)S(=O)CC(C(=O)O)CCC(=O)O | C13H16O5S
